US06828330B2
A mixture of 4-amino-3-hydroxybenzoic acid (1.0 g, 6.5 mmol) and trimethyl orthoformate (2.0 mL, 18.3 mmol) is heated in an oil bath at 100° C. for 30 h. The mixture is cooled to rt and diluted with MeOH. The resulting solution is filtered through a pad of Celite, and the filtrate is concentrated in vacuo to give Acid C3 as a brown solid (290 mg, 27%): 1H NMR (DMSO-d6) δ 13.0, 8.9, 8.3, 8.1, 7.9.

reactant | 4-amino-3-hydroxybenzoic acid | 6.5 mmol, 1.0 g | NC1=C(C=C(C(=O)O)C=C1)O | C7H7NO3
reactant | trimethyl orthoformate | 18.3 mmol, 2.0 mL | C(OC)(OC)OC | C4H10O3
reactant | MeOH | CO | CH4O
product | 1,3-benzoxazole-5-carboxylic Acid | 290 mg, 27% | O1C=NC2=C1C=CC(=C2)C(=O)O | C8H5NO3
